US08865726B2
To a solution of (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one (6.7 g, 18 mmol) and 3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazole (11 g, 27 mmol) in dioxane (150 mL) was added sodium carbonate (44 ml, 89 mmol) (2 M in water) and the reaction mixture bubbled with nitrogen gas for 30 minutes, followed by addition of 750 mg each of Pd2 dba3 and X-phos, and the reaction heated to 80° C. while the nitrogen purge continued. The reaction was poured into water (150 mL) and extracted with ethyl acetate (400 mL). The organic layer was washed with water (100 mL), brine (100 mL), dried over MgSO4 and concentrated in vacuo. The material was chromatographed using a gradient of 70% EtOAc/DCM to EtOAc as eluent to yield (S)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one (5.8 g, 9.8 mmol, 55% yield).

reactant | (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one | 18 mmol, 6.7 g | BrC=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=NC=C(C=C2)F)=O | C14H9BrFN5O2
reactant | 3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazole | 27 mmol, 11 g | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C1=NN(C=N1)COCC[Si](C)(C)C | C20H31BFN3O3Si
reactant | sodium carbonate | 89 mmol, 2 M, 44 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | (S)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one | 9.8 mmol, 5.8 g, 55% yield | FC=1C=C(C=CC1C1=NN(C=N1)COCC[Si](C)(C)C)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=NC=C(C=C2)F)=O | C28H28F2N8O3Si
